US07112584B2
25.5 g of 4-acetylbenzo[1,3]dioxole is mixed with 57.2 ml of methylmagnesium chloride solution (3M in THF) in 375 ml of THF at room temperature under argon. It is stirred for 16 hours at room temperature and added to ice/2H hydrochloric acid. It is extracted with ethyl acetate, and the organic phase is washed with water and brine, and it is dried (Na2SO4). 27.89 g of 1-[benzo(1,3)dioxol-4-yl]-1-methylethanol is obtained as a brown oil

reactant | 4-acetylbenzo[1,3]dioxole | 25.5 g | C(C)(=O)C1=CC=CC=2OCOC21 | C9H8O3
reactant | methylmagnesium chloride | 3M, 57.2 ml | C[Mg]Cl
solvent | THF | 375 ml | C1CCOC1 | C4H8O
product | 1-[benzo(1,3)dioxol-4-yl]-1-methylethanol | 27.89 g | O1COC2=C1C=CC=C2C(C)(O)C | C10H12O3
